US04888043
A solution of 2-propionyl-3-hydroxy-5-(3-acetyl-5-amino-2,4,6-trimethylphenyl)cyclohex-2-en-1-one (0.46 g, 1.34 mmol) in trifluoroacetic anhydride (2 ml) was stirred at 20° for 1 hr. Water and ether were then added. The organic layer was washed extensively with water, once with saturated sodium bicarbonate solution, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The crude product was purified by chromatography on silica gel (elution with 10% ethyl acetate in methylene chloride) to yield 2-propionyl-3-hydroxy-5-(3-acetyl-5-trifluoroacetamido-2,4,6-trimethyl-phenyl)cyclohex-2-en-1-one as a brown solid (0.37 g, 63%). The compound was characterized by proton magnetic resonance spectroscopy (CDCl3, δ in ppm): 1.12 (3H,t, 1.73 (3H,s); 2.22 (3H,s); 2.26 (3H,s); 2.46 (3H,s); 2.4-4.1 (5H,m); 3.08 (2H,q); 9.29 1H,s); 18.33 (1H,s).

reactant | 2-propionyl-3-hydroxy-5-(3-acetyl-5-amino-2,4,6-trimethylphenyl)cyclohex-2-en-1-one | 1.34 mmol, 0.46 g | C(CC)(=O)C=1C(CC(CC1O)C1=C(C(=C(C(=C1C)N)C)C(C)=O)C)=O | C20H25NO4
reactant | Water | O | H2O
reactant | ether | CCOCC | C4H10O
reactant | trifluoroacetic anhydride | 2 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 2-propionyl-3-hydroxy-5-(3-acetyl-5-trifluoroacetamido-2,4,6-trimethyl-phenyl)cyclohex-2-en-1-one | 0.37 g, 63% | C(CC)(=O)C=1C(CC(CC1O)C1=C(C(=C(C(=C1C)NC(C(F)(F)F)=O)C)C(C)=O)C)=O | C22H24F3NO5
